US07612075B2
B. 2-Amino-4-methylphenylethanone.
A solution of 4-methyl-2-nitrophenylethanone (5.0 g, 28 mmol) in methanol (100 mL) is treated with ammonium formate (9.6 g, 140 mmol) and 5% palladium on carbon (1.5 g). The mixture is heated to 60° C. for 6 h then stirred at ambient temperature for 16 hours. The reaction mixture is filtered through Celite and the filtrate is concentrated in vacuo. The concentrate is treated with sodium bicarbonate and partitioned between water and ethyl acetate. The organic layer is separated, dried with sodium sulfate and concentrated to give crude title compound (4.5 g, 30.2 mmol) which is used without further purification. MS m/z: M+=149; 1H NMR (CDCl3, 300 MHz) δ8.05 (d, 1H), 7.4 (d, 1H), 7.25 (s, 1H), 2.8 (s, 3H), 2.45 (s, 3H).

reactant | 4-methyl-2-nitrophenylethanone | 28 mmol, 5.0 g | CC1=CC(=C(C=C1)C(C)=O)[N+](=O)[O-] | C9H9NO3
reactant | ammonium formate | 140 mmol, 9.6 g | C(=O)[O-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 2-Amino-4-methylphenylethanone | 30.2 mmol, 4.5 g | NC1=C(C=CC(=C1)C)C(C)=O | C9H11NO
